US06949542B2
[2-[3-Oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J6) (281 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K3) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as an off-white solid (199 mg).

reactant | [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.75 mmol, 281 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)N)=O | C14H16F6N2O3
reactant | 3-oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O | C18H19NO3
product | [2-[3-Oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O)=O | C28H25F6N3O5
